US07214507B2
β-Nootkatol was prepared by reduction of 190 mg nootkatone (Fluka) with 20 mg of LiAlH4 in in 5 mL dry ether (diethyl-ether) (Shoji et al., 1984). After stirring the grey suspension for one night, the reaction was stopped by careful addition of Na2SO4.10H2O. The mlxture was stirred for an additional 30 minutes, and dried by the addition of MgSO4. The solids were filtered off and the ether was washed with distilled water. After drying and evaporation of the solvent, 140 mg of a crude oil was obtained that besides β-nootkatol contained 4% of α-nootkatol, EIMS (70 eV) m/z: 220 [M]+ (33), 177 (77), 161 (40), 145 (52), 131 (77), 119 (100), 109 (41), 107 (50), 105 (59), 95 (46), 93 (60), 91 (43), 81 (45), 79 (80), 77 (64), 69 (47), 67 (52), 55 (58), 43 (55), 41 (94), 39 (54). After flash chromatography of 50 mg from this crude oil on silica with ether-pentane (2:1), fractions devoid of any trace of α:-nootkatol were pooled yielding 3.6 mg of β-nootkatol. 1H NMR (200 MHz, C6D6) δ 0.83 (d, 3H, J=3 Hz), δ 0.95 (s, 3H), δ 0.96–1.47 (m, 7H), δ 1.75 (m, 3H), δ 1.93 (dt, 1H, J=12.7 and 2.7 Hz), δ 2.07 (m, 1H), δ 2.20–2.33 (m, 2H), δ 4.19–4.26 (m, 1H), δ 4.88 (br s, 2H), 5.44 (br d, 1H). 13C NMR (100 MHz, DEPT, CDCl3) δ 15.7 (q), δ 18.4 (q), δ 21.1 (q), δ 32.8 (t), δ 33.4 (t), δ 37.8 (t), δ 38.5 (s), δ 39.8 (d), δ 41.3 (d), δ 45.1 (t), δ 68.1 (d), δ 109.2 (t), 125.9 (d), δ 144.9 (s), δ 150.2 (s). EIMS (70 eV) m/z: 220 [M]+ (56), 177 (100), 145 (31), 135 (51), 131 (43), 123 (38), 121 (91), 119 (81), 109 (42), 107 (66), 105 (62), 95 (49), 93 (69), 91 (87), 81 (39), 79 (60), 77 (56), 69 (45), 67 (51) 55 (62), 53 (42), (52), 41 (100), 39 (55).

reactant | nootkatone | 190 mg | C[C@@H]1CC(=O)C=C2[C@]1(C[C@@H](CC2)C(=C)C)C | C15H22O
reactant | LiAlH4 | 20 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ether | 5 mL | CCOCC | C4H10O
product | β-Nootkatol | C[C@@H]1C[C@@H](C=C2[C@]1(C[C@@H](CC2)C(=C)C)C)O | C15H24O
